US06569888B1
Methyl N-Benzyl-4-(2-hydroxyethoxy)indole-2-carboxylate (Methyl Ester of Compound 1)
Potassium carbonate (0.2 g) was added to a stirred solution of methyl N-benzyl-4-hydroxyindole-2-carboxylate (0.2 g) and 2-Bromoethanol (98 mg) in DMF (15 ml). The reaction was then stirred for 16 hours at 80° C. under an atmosphere of argon. The reaction mixture was concentrated in vacuo and the residue partitioned between ethyl acetate and water. Combined organic extracts were washed with water, dried (MgSO4), concentrated in vacuo and the residue purified by column chromatography using 70% ethyl acetate: isohexane as eluent to give the product as a colourless crystalline solid. (64 mg, 27%); NMR d (CD3SOCD3) 3.74-3.82 (m, 5H), 4.10 (m, 2H), 4.88 (m, 1H), 5.80 (s, 2H), 6.58 (m, 1H), 6.98 (d, 2H), 7.09 (m, 1H), 7.14-7.27 (m, 4H), 7.38 (m, 1H); M/z (+) 326 (MH+).

reactant | Potassium carbonate | 0.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl N-benzyl-4-hydroxyindole-2-carboxylate | 0.2 g | C(C1=CC=CC=C1)N1C(=CC2=C(C=CC=C12)O)C(=O)OC | C17H15NO3
reactant | 2-Bromoethanol | 98 mg | BrCCO | C2H5BrO
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | Methyl N-Benzyl-4-(2-hydroxyethoxy)indole-2-carboxylate | C(C1=CC=CC=C1)N1C(=CC2=C(C=CC=C12)OCCO)C(=O)OC | C19H19NO4
